US08080552B2
i) 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[4-(6-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea
A solution of 4-(6-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine (1.3 g, 5.5 mmol) in THF (24 ml) is cooled to 0° C. A solution of 4-chloro-3-(trifluoromethyl)phenyl isocyanate (1.22 g, 5.5 mmol) in THF (24 ml) is added dropwise and stirring is continued overnight at r.t. The solvent is evaporated and the crude product is purified by silica gel chromatography using an ethyl acetate/heptane eluent (1:1) to give 1.78 g (70%) of a white solid.

reactant | 4-(6-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 5.5 mmol, 1.3 g | CSC1=CC(=NC=N1)OC1=CC=C(C=C1)N | C11H11N3OS
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 5.5 mmol, 1.22 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[4-(6-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea | 1.78 g, 70% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC=NC(=C1)SC)C(F)(F)F | C19H14ClF3N4O2S
